US09029538B2
4-(4-Fluorophenyl)-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid.
4-(4-Fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid ethyl ester (300 mg, 1 mmol) in THF (3 mL) and MeOH (7 mL) was added 5M NaOH (2 mL, 2 mmol). The mixture was stirred at rt for 1h and was concentrated. Water was added and the mixture was extracted with ether. The aq. layer was made acidic with HCl at 0° C. and was extracted with EtOAc and concentrated. LCMS m/z=274 (M+Na); 1H NMR (DMSO) δ: 13.03 (s, 1H), 7.35-7.30 (m, 4H).

reactant | 4-(4-Fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid ethyl ester | 1 mmol, 300 mg | C(C)OC(=O)C=1C(N(C(NN1)=O)C1=CC=C(C=C1)F)=O | C12H10FN3O4
reactant | NaOH | 2 mmol, 5M, 2 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 7 mL | CO | CH4O
product | 4-(4-Fluorophenyl)-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid | FC1=CC=C(C=C1)N1C(NN=C(C1=O)C(=O)O)=O | C10H6FN3O4
